* C:\users\cod3r\Favorites\Elektronika\17_Tranzystor_generator_impulsow\schemat3.asc
V2 N003 0 PULSE(0 5 0.05 0.001 0.001 0.05 1.5)
Q1 N002 N004 N005 0 NPN
R1 N005 0 20
Q2 OUT N002 N005 0 NPN
R2 N001 N002 1k
R3 N001 OUT 1k
V1 N001 0 5V
R4 N004 VIN 25k
R5 VIN N003 1k
C1 VIN 0 10µ
.model NPN NPN
.model PNP PNP
.lib C:\users\cod3r\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.18s 0 0.001s
.backanno
.end
