* C:\users\cod3r\Favorites\Elektronika\20_Tranzystor_wspolny_emiter\schemat.asc
V§Ucc N001 0 20
C1 N003 IN 0.1µ
R1 N001 N003 110k
R2 N003 0 10k
R3 N001 N002 10k
R4 N004 0 1k
Q1 N002 N003 N004 0 NPN
V1 IN 0 SINE(0 1 1000)
C2 OUT N002 0.1µ
.model NPN NPN
.model PNP PNP
.lib C:\users\cod3r\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.01s 0 0.001s
.backanno
.end
