* C:\users\cod3r\Favorites\Elektronika\2_dzielnik_dioda\schemat.asc
V1 N001 0 5
R1 N001 N002 1k
D1 N002 0 D
.model D D
.lib C:\users\cod3r\AppData\Local\LTspice\lib\cmp\standard.dio
.dc V1 0 5 0.1
.backanno
.end
